US04594197
To a solution of 4.22 g of 3-(4-chlorobenzoyl)-acrylic acid in 40 ml of dimethylformamide were added 3.68 g of dimethyl sulfate and 1.36 g of potassium carbonate, and the mixture was stirred at room temperature for 3 hours. To the reaction solution was added diethyl ether. The mixture was washed, in turn, with water, a saturated aqueous solution of sodium hydrogencarbonate and water, and dried over magnesium sulfate. The diethyl ether was removed from the mixture by evaporation, and the residue was recrystallized from hexane to give 2.68 g of ethyl 3-(4-chlorobenzoyl)acrylate.

reactant | 3-(4-chlorobenzoyl)-acrylic acid | 4.22 g | ClC1=CC=C(C(=O)C=CC(=O)O)C=C1 | C10H7ClO3
reactant | dimethyl sulfate | 3.68 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 1.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | ethyl 3-(4-chlorobenzoyl)acrylate | 2.68 g | ClC1=CC=C(C(=O)C=CC(=O)OCC)C=C1 | C12H11ClO3
